US06699879B1
A mixture of 2,5-difluoroaniline (7.5 ml) and ethyl acetoacetate (9.6 ml) were combined in toluene (15 ml) containing acetic acid (1.5 ml). The mixture was boiled under Dean-Stark azeotrope conditions, cooled and solvent removed at reduced pressure to give crude (E)-3-(2,5-difluoro-phenylamino)-but-2-enoic acid ethyl ester (16.17 g). (E)-3-(2,5-Difluoro-phenylamino)-but-2-enoic acid ethyl ester (2 g) was refluxed in Dowtherm-A (40 ml) for 3 h. After cooling the Dowtherm was diluted with pentane (40 ml) and the precipitated title compound isolated by filtration. (Method A). 1H NMR δ: 2.34 (3H, s), 5.91 (1H, s), 6.96 (1H, m), 7.53 (1H, m), 11.48 (1H, brs).

reactant | 2,5-difluoroaniline | 7.5 ml | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | ethyl acetoacetate | 9.6 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(2,5-difluoro-phenylamino)-but-2-enoic acid ethyl ester | 16.17 g | C(C)OC(\C=C(/C)\NC1=C(C=CC(=C1)F)F)=O | C12H13F2NO2
